### PR TITLE
Jm/world1groups

### PR DESCRIPTION
**Pull request by justin-t-morrill**
Group definition and axiom explanation, also proved op_inv

### CODE REVIEW

**Comment by MithicSpirit** [comment]
Is `op_inv` supposed to be an exercise? Might be good to mark it as such if it is (imo just saying that in a comment suffices for now).

**Comment by MithicSpirit** [comment]
@justin-t-morrill if you're still working on this branch, I recommend marking this PR as a draft ("Convert to draft" near the top of the sidebar to the right).

**Review by Anoushka1406 — APPROVED** [review]

File: AlgebraInLean/World01/Sheet1.lean [hunk 1]
```diff
@@ -0,0 +1,49 @@
...
+
+theorem id_op [Group G] (a : G) : μ 𝕖 a = a := Group.id_op a
+
+def ι [Group G] : G → G := Group.inv -- We represent the inverse function as ι (written as \io)
+
+theorem inv_op [Group G] (a : G) : μ (ι a) a = 𝕖 := Group.inv_op a
+
+/- Now, we can start writing proofs with groups-/
+
+-- This is a proof that multiplying by the inverse gives the identity
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World01/Sheet1.lean:57]: Maybe add some more comments emphasizing the difference between `op_inv` and `inv_op`. The current way it reads, a reader might be confused, since we already have an axiom asserting that "multiplying by the inverse gives the identity."

File: AlgebraInLean/World01/Sheet3.lean [hunk 2]
```diff
@@ -0,0 +1,37 @@
...
+/- Since the proof of op_inv used the previous definition of Group, we need
+to reprove it using the new definition-/
+theorem op_inv [Defs.Group G] (a : G) : μ a (ι a) = 𝕖 := by
+  rw[(id_op (μ a (ι a))).symm, (inv_op (ι a)).symm]
+  rw[op_assoc, (op_assoc (ι a) a (ι a)).symm, inv_op, id_op]
+
+
+/- This proves that the identity is unique. This theorem only requires G to
+be a monoid, so that is all we will assume-/
+theorem identity_uniqueness [Defs.Monoid G] (e2 : G) : (∀ a : G, (μ a e2 = a ∧ μ e2 a = a)) → e2 = 𝕖 := by
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World01/Sheet3.lean:17]: Perhaps a more abbreviated name would be better; easier to type for future chapters, and conforms better to conventions. Something like `op_unique`? (Same for inverse below)

File: AlgebraInLean/World01/Sheet4.lean [hunk 3]
```diff
@@ -0,0 +1,154 @@
+import AlgebraInLean.World01.Sheet3
+open Defs
+
+/- Now that we know how to define a group, and some basic properties of groups,
+we can find important examples of groups-/
+
+/- The group you are likely most familiar with is the integers, with addition
+as the group operation.-/
+instance : Defs.Group ℤ where
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World01/Sheet4.lean:9]: To avoid typing `Defs.*` for everything, we should wrap everything in this file to be inside the `Defs` namespace. And while we're at it, we should rename this namespace to something more generic/global. Something like `AlgebraInLean`?

File: AlgebraInLean/World01/Sheet4.lean [hunk 4]
```diff
@@ -0,0 +1,154 @@
...
+  op := fun x y => x + y
+
+  op_assoc := by -- Mathlib already has a proof that the addition is associative, try to use that
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World01/Sheet4.lean:12]: This is a great opportunity to introduce `exact?`!

File: AlgebraInLean/World01/Sheet4.lean [hunk 5]
```diff
@@ -0,0 +1,154 @@
...
+you to solve multiple goals at the same time-/
+instance : Defs.Group C3 where
+  op := fC3
+
+  op_assoc := by
+    -- sorry
+    -- SAMPLE SOLUTION
+    intro a b c
+    cases a
+    all_goals cases b
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World01/Sheet4.lean:119]: `all_goals` or `<;>`? Which looks nicer? Which is more instructive?

**Review by MAO3J1m0Op — CHANGES_REQUESTED** [review]
Love this so far! Great explanations! I've included some various comments on structural stuff. I am with @MithicSpirit in thinking that it's best that this PR get marked as a draft. Once you've finalized the structure (names and locations of definitions, namespace names, general theorem names), I think this PR would be good to merge, but if we merge this too early, I fear that we would need to make lots of breaking changes on `master`, which would cause merge conflicts everywhere and mess with the workflow of other groups.

**Comment by MAO3J1m0Op** [comment]
Closing this, as #12 is intended to be the chapter 1 PR.
